* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : Barrel_Shifter                               *
* Netlisted  : Thu Dec 11 11:53:01 2025                     *
* Pegasus Version: 23.14-s006 Thu Jan 25 18:41:38 PST 2024  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 R(res_generic_m1) met1_res met1(P) met1(N)
*.DEVTMPLT 1 R(res_generic_m2) met2_res met2(P) met2(N)
*.DEVTMPLT 2 R(res_generic_m3) met3_res met3(P) met3(N)
*.DEVTMPLT 3 R(res_generic_m4) met4_res met4(P) met4(N)
*.DEVTMPLT 4 R(res_generic_m5) met5_res met5(P) met5(N)
*.DEVTMPLT 5 R(RES_GENERIC_ND) diff_res np_term(P) np_term(N)
*.DEVTMPLT 6 R(RES_GENERIC_PD) diff_res pp_term(P) pp_term(N)
*.DEVTMPLT 7 MN(nfet_01v8) nfet_01v8_rec nSourceDrain(D) nfet(G) nSourceDrain(S) pwell(B)
*.DEVTMPLT 8 MP(pfet_01v8) pfet_01v8_rec pSourceDrain(D) pfet(G) pSourceDrain(S) nwell(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1M2_C_CDNS_765471971190                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1M2_C_CDNS_765471971190 1
** N=1 EP=1 FDC=0
.ends M1M2_C_CDNS_765471971190

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1M2_C_CDNS_765471971191                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1M2_C_CDNS_765471971191 1
** N=1 EP=1 FDC=0
.ends M1M2_C_CDNS_765471971191

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1M2_C_CDNS_765471971192                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1M2_C_CDNS_765471971192 1
** N=1 EP=1 FDC=0
.ends M1M2_C_CDNS_765471971192

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1M2_C_CDNS_765471971193                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1M2_C_CDNS_765471971193 1
** N=1 EP=1 FDC=0
.ends M1M2_C_CDNS_765471971193

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: subTap_CDNS_765471971190                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt subTap_CDNS_765471971190 1
** N=2 EP=1 FDC=0
.ends subTap_CDNS_765471971190

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: polyConn_CDNS_765471971191                      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt polyConn_CDNS_765471971191 1
** N=2 EP=1 FDC=0
.ends polyConn_CDNS_765471971191

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nwellTap_CDNS_765471971192                      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nwellTap_CDNS_765471971192 1
** N=2 EP=1 FDC=0
.ends nwellTap_CDNS_765471971192

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: L1M1_C_CDNS_765471971194                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt L1M1_C_CDNS_765471971194 1
** N=1 EP=1 FDC=0
.ends L1M1_C_CDNS_765471971194

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pfet_01v8_CDNS_765471971193                     *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pfet_01v8_CDNS_765471971193 1 2 3
** N=5 EP=3 FDC=1
M0 2 3 1 1 pfet_01v8 L=1.5e-07 W=5.5e-07 $X=0 $Y=0 $dt=8
.ends pfet_01v8_CDNS_765471971193

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8_CDNS_765471971194                     *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8_CDNS_765471971194 1 2 3
** N=5 EP=3 FDC=1
M0 2 3 1 1 nfet_01v8 L=1.5e-07 W=4.2e-07 $X=0 $Y=0 $dt=7
.ends nfet_01v8_CDNS_765471971194

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: NOT                                             *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt NOT 1 2 3 4
** N=4 EP=4 FDC=2
X0 3 subTap_CDNS_765471971190 $T=1160 250 0 90 $X=830 $Y=40
X1 1 polyConn_CDNS_765471971191 $T=590 1450 0 0 $X=405 $Y=1265
X2 2 nwellTap_CDNS_765471971192 $T=1090 2890 0 90 $X=705 $Y=2625
X3 2 L1M1_C_CDNS_765471971194 $T=570 2890 0 0 $X=455 $Y=2725
X4 4 L1M1_C_CDNS_765471971194 $T=1140 1470 0 90 $X=975 $Y=1355
X5 2 4 1 pfet_01v8_CDNS_765471971193 $T=710 1880 0 0 $X=265 $Y=1700
X6 3 4 1 nfet_01v8_CDNS_765471971194 $T=710 650 0 0 $X=305 $Y=500
.ends NOT

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8_CDNS_765471971195                     *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8_CDNS_765471971195 1 2 3 4
** N=6 EP=4 FDC=1
M0 1 4 2 3 nfet_01v8 L=1.5e-07 W=4.2e-07 $X=0 $Y=0 $dt=7
.ends nfet_01v8_CDNS_765471971195

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8_CDNS_765471971196                     *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8_CDNS_765471971196 1 2 3
** N=4 EP=3 FDC=1
M0 2 3 1 1 nfet_01v8 L=1.5e-07 W=4.2e-07 $X=0 $Y=0 $dt=7
.ends nfet_01v8_CDNS_765471971196

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pfet_01v8_CDNS_765471971197                     *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pfet_01v8_CDNS_765471971197 1 2 3
** N=5 EP=3 FDC=1
M0 2 3 1 1 pfet_01v8 L=1.5e-07 W=5.5e-07 $X=0 $Y=0 $dt=8
.ends pfet_01v8_CDNS_765471971197

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pfet_01v8_CDNS_765471971198                     *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pfet_01v8_CDNS_765471971198 1 2 3
** N=5 EP=3 FDC=1
M0 1 3 2 2 pfet_01v8 L=1.5e-07 W=5.5e-07 $X=0 $Y=0 $dt=8
.ends pfet_01v8_CDNS_765471971198

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: NAND                                            *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt NAND 1 2 3 4 5
** N=6 EP=5 FDC=4
X0 1 polyConn_CDNS_765471971191 $T=783 2053 0 0 $X=598 $Y=1868
X1 2 polyConn_CDNS_765471971191 $T=1807 1736 0 90 $X=1622 $Y=1551
X2 3 L1M1_C_CDNS_765471971194 $T=845 3490 0 90 $X=680 $Y=3375
X3 4 L1M1_C_CDNS_765471971194 $T=1930 425 0 0 $X=1815 $Y=260
X4 5 L1M1_C_CDNS_765471971194 $T=2225 2090 0 90 $X=2060 $Y=1975
X5 5 6 4 1 nfet_01v8_CDNS_765471971195 $T=1430 1420 0 180 $X=875 $Y=220
X6 4 6 2 nfet_01v8_CDNS_765471971196 $T=1790 1420 0 180 $X=1525 $Y=850
X7 3 5 1 pfet_01v8_CDNS_765471971197 $T=850 2510 0 0 $X=405 $Y=2330
X8 5 3 2 pfet_01v8_CDNS_765471971198 $T=1430 3060 0 180 $X=1045 $Y=2330
.ends NAND

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: AND                                             *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt AND 1 2 3 4 5
** N=6 EP=5 FDC=6
X0 6 3 4 5 NOT $T=2360 0 0 0 $X=2360 $Y=0
X1 2 1 3 4 6 NAND $T=0 0 0 0 $X=0 $Y=0
.ends AND

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: AND3                                            *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt AND3 C B Vdd A Vss Vout
** N=7 EP=6 FDC=12
X0 B A Vdd Vss 7 AND $T=0 0 0 0 $X=0 $Y=0
X1 C 7 Vdd Vss Vout AND $T=4150 0 0 0 $X=4150 $Y=0
.ends AND3

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8_CDNS_765471971199                     *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8_CDNS_765471971199 1 2 3
** N=4 EP=3 FDC=1
M0 2 3 1 1 nfet_01v8 L=1.5e-07 W=4.2e-07 $X=0 $Y=0 $dt=7
.ends nfet_01v8_CDNS_765471971199

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pfet_01v8_CDNS_7654719711910                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pfet_01v8_CDNS_7654719711910 1 2 3 4
** N=5 EP=4 FDC=1
M0 2 3 1 4 pfet_01v8 L=1.5e-07 W=5.5e-07 $X=0 $Y=0 $dt=8
.ends pfet_01v8_CDNS_7654719711910

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pfet_01v8_CDNS_7654719711911                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pfet_01v8_CDNS_7654719711911 1 2 3
** N=4 EP=3 FDC=1
M0 2 3 1 1 pfet_01v8 L=1.5e-07 W=5.5e-07 $X=0 $Y=0 $dt=8
.ends pfet_01v8_CDNS_7654719711911

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8_CDNS_7654719711912                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8_CDNS_7654719711912 1 2 3
** N=5 EP=3 FDC=1
M0 2 3 1 1 nfet_01v8 L=1.5e-07 W=4.2e-07 $X=0 $Y=0 $dt=7
.ends nfet_01v8_CDNS_7654719711912

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: NOR                                             *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt NOR 1 2 3 4 5
** N=6 EP=5 FDC=4
X0 4 subTap_CDNS_765471971190 $T=1320 460 0 90 $X=990 $Y=250
X1 1 polyConn_CDNS_765471971191 $T=560 1670 0 90 $X=375 $Y=1485
X2 2 polyConn_CDNS_765471971191 $T=1780 2120 0 90 $X=1595 $Y=1935
X3 3 nwellTap_CDNS_765471971192 $T=1720 3520 0 90 $X=1335 $Y=3255
X4 5 L1M1_C_CDNS_765471971194 $T=1980 1670 0 90 $X=1815 $Y=1555
X5 4 5 2 nfet_01v8_CDNS_765471971199 $T=1300 1370 0 180 $X=1085 $Y=800
X6 6 5 1 3 pfet_01v8_CDNS_7654719711910 $T=1300 3010 0 180 $X=705 $Y=2280
X7 3 6 2 pfet_01v8_CDNS_7654719711911 $T=1660 3010 0 180 $X=1225 $Y=2280
X8 4 5 1 nfet_01v8_CDNS_7654719711912 $T=720 950 0 0 $X=315 $Y=800
.ends NOR

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: OR4                                             *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt OR4 1 2 3 4 5 6 7
** N=12 EP=7 FDC=18
X0 5 M1M2_C_CDNS_765471971191 $T=2370 160 0 0 $X=2240 $Y=0
X1 5 M1M2_C_CDNS_765471971191 $T=2370 7400 0 0 $X=2240 $Y=7240
X2 8 M1M2_C_CDNS_765471971191 $T=3760 5520 0 0 $X=3630 $Y=5360
X3 8 M1M2_C_CDNS_765471971191 $T=3780 2500 0 0 $X=3650 $Y=2340
X4 9 6 5 10 NOT $T=2350 580 0 0 $X=2350 $Y=580
X5 11 6 5 8 NOT $T=2350 6990 1 0 $X=2350 $Y=3630
X6 12 6 5 7 NOT $T=6060 800 0 0 $X=6060 $Y=800
X7 4 1 6 5 9 NOR $T=0 0 0 0 $X=0 $Y=0
X8 3 2 6 5 11 NOR $T=0 7560 1 0 $X=0 $Y=3560
X9 10 8 6 5 12 NOR $T=3710 420 0 0 $X=3710 $Y=420
.ends OR4

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: 4_1_MUX_Schematic                               *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt 4_1_MUX_Schematic A S1 S0 Vdd B C D Vss Vout
** N=15 EP=9 FDC=70
X0 S1 M1M2_C_CDNS_765471971190 $T=1880 6010 0 0 $X=1720 $Y=5850
X1 A M1M2_C_CDNS_765471971190 $T=2660 11620 0 0 $X=2500 $Y=11460
X2 A M1M2_C_CDNS_765471971190 $T=2660 15500 0 0 $X=2500 $Y=15340
X3 S0 M1M2_C_CDNS_765471971190 $T=4030 1140 0 0 $X=3870 $Y=980
X4 10 M1M2_C_CDNS_765471971190 $T=4600 5410 0 0 $X=4440 $Y=5250
X5 S1 M1M2_C_CDNS_765471971190 $T=5160 1730 0 0 $X=5000 $Y=1570
X6 S1 M1M2_C_CDNS_765471971190 $T=5160 6010 0 0 $X=5000 $Y=5850
X7 Vdd M1M2_C_CDNS_765471971190 $T=8130 3930 0 90 $X=7970 $Y=3770
X8 Vss M1M2_C_CDNS_765471971190 $T=9790 170 0 0 $X=9630 $Y=10
X9 Vss M1M2_C_CDNS_765471971190 $T=9790 4650 0 90 $X=9630 $Y=4490
X10 Vss M1M2_C_CDNS_765471971190 $T=9920 13020 0 0 $X=9760 $Y=12860
X11 S1 M1M2_C_CDNS_765471971191 $T=500 15060 0 0 $X=370 $Y=14900
X12 S0 M1M2_C_CDNS_765471971191 $T=3360 15070 0 0 $X=3230 $Y=14910
X13 11 M1M2_C_CDNS_765471971191 $T=5160 13140 0 90 $X=5000 $Y=13010
X14 11 M1M2_C_CDNS_765471971191 $T=5160 12150 0 0 $X=5030 $Y=11990
X15 10 M1M2_C_CDNS_765471971191 $T=5700 14000 0 90 $X=5540 $Y=13870
X16 Vdd M1M2_C_CDNS_765471971191 $T=9140 12680 0 90 $X=8980 $Y=12550
X17 Vdd M1M2_C_CDNS_765471971191 $T=9290 16865 0 90 $X=9130 $Y=16735
X18 Vss M1M2_C_CDNS_765471971191 $T=10290 8820 0 0 $X=10160 $Y=8660
X19 12 M1M2_C_CDNS_765471971191 $T=14060 5010 0 0 $X=13930 $Y=4850
X20 13 M1M2_C_CDNS_765471971191 $T=15170 8350 0 0 $X=15040 $Y=8190
X21 S0 M1M2_C_CDNS_765471971192 $T=300 15920 0 0 $X=140 $Y=15790
X22 11 M1M2_C_CDNS_765471971192 $T=3170 14590 0 0 $X=3010 $Y=14460
X23 S0 M1M2_C_CDNS_765471971192 $T=4030 9730 0 0 $X=3870 $Y=9600
X24 11 M1M2_C_CDNS_765471971192 $T=5710 14590 0 0 $X=5550 $Y=14460
X25 Vdd M1M2_C_CDNS_765471971192 $T=9210 8420 0 0 $X=9050 $Y=8290
X26 12 M1M2_C_CDNS_765471971192 $T=15170 11520 0 0 $X=15010 $Y=11390
X27 11 M1M2_C_CDNS_765471971193 $T=5160 10320 0 0 $X=5000 $Y=10160
X28 13 M1M2_C_CDNS_765471971193 $T=15170 9390 0 0 $X=15010 $Y=9230
X29 S1 Vdd Vss 11 NOT $T=430 13610 0 0 $X=430 $Y=13610
X30 S0 Vdd Vss 10 NOT $T=3290 13610 0 0 $X=3290 $Y=13610
X31 S0 S1 Vdd D Vss 12 AND3 $T=5630 100 0 0 $X=5630 $Y=100
X32 10 S1 Vdd C Vss 13 AND3 $T=5630 4380 0 0 $X=5630 $Y=4380
X33 S0 11 Vdd B Vss 14 AND3 $T=5630 8690 0 0 $X=5630 $Y=8690
X34 10 11 Vdd A Vss 15 AND3 $T=5630 12960 0 0 $X=5630 $Y=12960
X35 12 14 15 13 Vss Vdd Vout OR4 $T=15100 9410 0 0 $X=15100 $Y=9410
.ends 4_1_MUX_Schematic

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: Barrel_Shifter                                  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt Barrel_Shifter S0 S1 Vdd Vss W0 W1 W2 W3 Y0 Y1
+ Y2 Y3
** N=12 EP=12 FDC=280
X0 S1 M1M2_C_CDNS_765471971190 $T=160 830 0 0 $X=0 $Y=670
X1 S1 M1M2_C_CDNS_765471971190 $T=160 16620 0 0 $X=0 $Y=16460
X2 S0 M1M2_C_CDNS_765471971190 $T=600 1250 0 0 $X=440 $Y=1090
X3 S0 M1M2_C_CDNS_765471971190 $T=600 17480 0 0 $X=440 $Y=17320
X4 W2 M1M2_C_CDNS_765471971190 $T=980 3740 0 0 $X=820 $Y=3580
X5 W2 M1M2_C_CDNS_765471971190 $T=980 19650 0 0 $X=820 $Y=19490
X6 W3 M1M2_C_CDNS_765471971190 $T=1365 20980 0 0 $X=1205 $Y=20820
X7 W1 M1M2_C_CDNS_765471971190 $T=1750 8020 0 0 $X=1590 $Y=7860
X8 W1 M1M2_C_CDNS_765471971190 $T=1750 19180 0 0 $X=1590 $Y=19020
X9 W0 M1M2_C_CDNS_765471971190 $T=2160 12330 0 0 $X=2000 $Y=12170
X10 W0 M1M2_C_CDNS_765471971190 $T=2160 20130 0 0 $X=2000 $Y=19970
X11 Vss M1M2_C_CDNS_765471971190 $T=10850 1730 0 0 $X=10690 $Y=1570
X12 Y3 M1M2_C_CDNS_765471971190 $T=25700 13240 0 0 $X=25540 $Y=13080
X13 S0 M1M2_C_CDNS_765471971190 $T=26080 1250 0 0 $X=25920 $Y=1090
X14 S0 M1M2_C_CDNS_765471971190 $T=26080 17410 0 0 $X=25920 $Y=17250
X15 W3 M1M2_C_CDNS_765471971190 $T=26460 12260 0 0 $X=26300 $Y=12100
X16 W3 M1M2_C_CDNS_765471971190 $T=26460 20520 0 0 $X=26300 $Y=20360
X17 W3 M1M2_C_CDNS_765471971190 $T=26460 20980 0 0 $X=26300 $Y=20820
X18 W2 M1M2_C_CDNS_765471971190 $T=26910 19650 0 0 $X=26750 $Y=19490
X19 W1 M1M2_C_CDNS_765471971190 $T=27300 3670 0 0 $X=27140 $Y=3510
X20 W1 M1M2_C_CDNS_765471971190 $T=27300 19180 0 0 $X=27140 $Y=19020
X21 W0 M1M2_C_CDNS_765471971190 $T=27670 7950 0 0 $X=27510 $Y=7790
X22 W0 M1M2_C_CDNS_765471971190 $T=27670 20130 0 0 $X=27510 $Y=19970
X23 S1 M1M2_C_CDNS_765471971190 $T=28050 830 0 0 $X=27890 $Y=670
X24 S1 M1M2_C_CDNS_765471971190 $T=28050 16550 0 0 $X=27890 $Y=16390
X25 Vss M1M2_C_CDNS_765471971190 $T=36450 1660 0 0 $X=36290 $Y=1500
X26 Vdd M1M2_C_CDNS_765471971190 $T=37590 21410 0 0 $X=37430 $Y=21250
X27 Y2 M1M2_C_CDNS_765471971190 $T=51270 13170 0 0 $X=51110 $Y=13010
X28 W2 M1M2_C_CDNS_765471971190 $T=51640 12340 0 0 $X=51480 $Y=12180
X29 W2 M1M2_C_CDNS_765471971190 $T=51640 19650 0 0 $X=51480 $Y=19490
X30 W3 M1M2_C_CDNS_765471971190 $T=52030 8030 0 0 $X=51870 $Y=7870
X31 W3 M1M2_C_CDNS_765471971190 $T=52030 20520 0 0 $X=51870 $Y=20360
X32 W1 M1M2_C_CDNS_765471971190 $T=52400 13190 0 0 $X=52240 $Y=13030
X33 W1 M1M2_C_CDNS_765471971190 $T=52400 19180 0 0 $X=52240 $Y=19020
X34 W1 M1M2_C_CDNS_765471971190 $T=52400 21000 0 0 $X=52240 $Y=20840
X35 W0 M1M2_C_CDNS_765471971190 $T=53050 3750 0 0 $X=52890 $Y=3590
X36 W0 M1M2_C_CDNS_765471971190 $T=53050 20130 0 0 $X=52890 $Y=19970
X37 S0 M1M2_C_CDNS_765471971190 $T=53520 1250 0 0 $X=53360 $Y=1090
X38 S0 M1M2_C_CDNS_765471971190 $T=53520 17490 0 0 $X=53360 $Y=17330
X39 S1 M1M2_C_CDNS_765471971190 $T=53890 830 0 0 $X=53730 $Y=670
X40 S1 M1M2_C_CDNS_765471971190 $T=53890 16630 0 0 $X=53730 $Y=16470
X41 Vss M1M2_C_CDNS_765471971190 $T=62040 1740 0 0 $X=61880 $Y=1580
X42 Vdd M1M2_C_CDNS_765471971190 $T=63180 21410 0 0 $X=63020 $Y=21250
X43 Y1 M1M2_C_CDNS_765471971190 $T=76860 13250 0 0 $X=76700 $Y=13090
X44 W1 M1M2_C_CDNS_765471971190 $T=77210 12360 0 0 $X=77050 $Y=12200
X45 W1 M1M2_C_CDNS_765471971190 $T=77210 21000 0 0 $X=77050 $Y=20840
X46 W0 M1M2_C_CDNS_765471971190 $T=77610 13210 0 0 $X=77450 $Y=13050
X47 W0 M1M2_C_CDNS_765471971190 $T=77610 20130 0 0 $X=77450 $Y=19970
X48 W3 M1M2_C_CDNS_765471971190 $T=78020 3770 0 0 $X=77860 $Y=3610
X49 W3 M1M2_C_CDNS_765471971190 $T=78020 20520 0 0 $X=77860 $Y=20360
X50 W2 M1M2_C_CDNS_765471971190 $T=78380 8050 0 0 $X=78220 $Y=7890
X51 W2 M1M2_C_CDNS_765471971190 $T=78380 19650 0 0 $X=78220 $Y=19490
X52 S0 M1M2_C_CDNS_765471971190 $T=78760 1250 0 0 $X=78600 $Y=1090
X53 S0 M1M2_C_CDNS_765471971190 $T=78760 17510 0 0 $X=78600 $Y=17350
X54 S1 M1M2_C_CDNS_765471971190 $T=79230 830 0 0 $X=79070 $Y=670
X55 S1 M1M2_C_CDNS_765471971190 $T=79230 16650 0 0 $X=79070 $Y=16490
X56 Vss M1M2_C_CDNS_765471971190 $T=87260 480 0 0 $X=87100 $Y=320
X57 Vss M1M2_C_CDNS_765471971190 $T=87260 1760 0 0 $X=87100 $Y=1600
X58 Vdd M1M2_C_CDNS_765471971190 $T=88450 21410 0 0 $X=88290 $Y=21250
X59 Y0 M1M2_C_CDNS_765471971190 $T=102130 13270 0 0 $X=101970 $Y=13110
X60 W3 M1M2_C_CDNS_765471971191 $T=1365 21760 0 270 $X=1205 $Y=21630
X61 Vss M1M2_C_CDNS_765471971191 $T=10850 480 0 270 $X=10690 $Y=350
X62 Vdd M1M2_C_CDNS_765471971191 $T=12020 18840 0 270 $X=11860 $Y=18710
X63 Vdd M1M2_C_CDNS_765471971191 $T=12020 21410 0 0 $X=11890 $Y=21250
X64 Y3 M1M2_C_CDNS_765471971191 $T=25700 130 0 270 $X=25540 $Y=0
X65 W2 M1M2_C_CDNS_765471971191 $T=26910 21760 0 270 $X=26750 $Y=21630
X66 Vss M1M2_C_CDNS_765471971191 $T=36450 480 0 270 $X=36290 $Y=350
X67 Vdd M1M2_C_CDNS_765471971191 $T=37590 18800 0 270 $X=37430 $Y=18670
X68 W1 M1M2_C_CDNS_765471971191 $T=52400 21760 0 270 $X=52240 $Y=21630
X69 Vss M1M2_C_CDNS_765471971191 $T=62040 480 0 270 $X=61880 $Y=350
X70 Vdd M1M2_C_CDNS_765471971191 $T=63180 18880 0 270 $X=63020 $Y=18750
X71 Y1 M1M2_C_CDNS_765471971191 $T=76860 130 0 270 $X=76700 $Y=0
X72 W0 M1M2_C_CDNS_765471971191 $T=77610 21760 0 270 $X=77450 $Y=21630
X73 Vdd M1M2_C_CDNS_765471971191 $T=88450 18900 0 270 $X=88290 $Y=18770
X74 Y0 M1M2_C_CDNS_765471971191 $T=102130 130 0 270 $X=101970 $Y=0
X75 W3 M1M2_C_CDNS_765471971192 $T=1370 13180 0 0 $X=1210 $Y=13050
X76 W2 M1M2_C_CDNS_765471971192 $T=26890 13110 0 0 $X=26730 $Y=12980
X77 Y2 M1M2_C_CDNS_765471971192 $T=51265 130 0 0 $X=51105 $Y=0
X78 W3 S1 S0 Vdd W0 W1 W2 Vss Y3 4_1_MUX_Schematic $T=2730 1560 0 0 $X=2730 $Y=1570
X79 W2 S1 S0 Vdd W3 W0 W1 Vss Y2 4_1_MUX_Schematic $T=28300 1490 0 0 $X=28300 $Y=1500
X80 W1 S1 S0 Vdd W2 W3 W0 Vss Y1 4_1_MUX_Schematic $T=53890 1570 0 0 $X=53890 $Y=1580
X81 W0 S1 S0 Vdd W1 W2 W3 Vss Y0 4_1_MUX_Schematic $T=79160 1590 0 0 $X=79160 $Y=1600
.ends Barrel_Shifter
